US04405552
EXAMPLE 4: 2-AMINO-5-(4-CHLOROPHENYL)-3-PYRIDINECARBONITRILE
A solution of 2-chloro-5-(4-chlorophenyl)-3-pyridinecarbonitrile (2.0 grams) in 30 ml DMSO was heated in an oil bath at 80°-90° C. and then treated with gaseous NH3 for 21/2 hours. The reaction mixture was allowed to stand at room temperature for about 60 hours and then additional starting material (4 g) in 35 ml DMSO was added. The mixture was then treated with NH3 at 80°-90° C. for about 28 hours and poured into ice water. The tan solid precipitate which formed was filtered and used without further purification, yield 5.5 grams, m.p. 202°-204° C.

reactant | 2-chloro-5-(4-chlorophenyl)-3-pyridinecarbonitrile | 2.0 grams | ClC1=NC=C(C=C1C#N)C1=CC=C(C=C1)Cl | C12H6Cl2N2
reactant | NH3 | N | H3N
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | DMSO | 35 ml | CS(=O)C | C2H6OS
product | 2-AMINO-5-(4-CHLOROPHENYL)-3-PYRIDINECARBONITRILE | NC1=NC=C(C=C1C#N)C1=CC=C(C=C1)Cl | C12H8ClN3
